US07727989B2
a) 6-(2-Cyclopropylpyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one
100 mg of 6-(2-chloropyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one, 29.2 mg of cyclopropylboronic acid and 138 mg of potassium phosphate are dissolved in 1 ml of toluene and 0.05 ml of water and, under an argon atmosphere, 17 mg of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride (1:1 complex with CH2Cl2) are added. The mixture is stirred at 100° C. for 9 h. After cooling to room temperature, it is diluted with 15 ml of water and extracted several times with ethyl acetate, and the combined organic phases are extracted once more with saturated sodium chloride solution and dried using a Varian Chem Elut CE 1005 cartridge. The crude product is purified by RP HPLC (acetonitrile (+0.05% HCOOH)/water (+0.05% HCOOH)).

reactant | 6-(2-chloropyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one | 100 mg | ClC1=NC=CC(=N1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C27H37ClN6O3Si2
reactant | cyclopropylboronic acid | 29.2 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 138 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 17 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.05 ml | O | H2O
product | 6-(2-Cyclopropylpyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one | C1(CC1)C1=NC=CC(=N1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C30H42N6O3Si2
